US05587379
Step E Synthesis of 2,4-diamino-6-ethyl-5-(4-chloro-3-undecylaminophenyl)pyrimidine
Under a nitrogen atmosphere, a stirred solution of 40 mL of 1M boranetetrahydrofuran complex was cooled to below 10° C., and a solution of 2.4 grams (0.006 mole) of.2,4-diamino-6-ethyl-5-(4-chloro-3-decylcarbonylaminophenyl)pyrimidine in 60 mL of tetrahydrofuran was added dropwise during about a 5 minute period. The reaction mixture temperature was maintained below 10° C. throughout the addition; Upon completion of addition, the reaction mixture was heated at 60° C. for about 18 hours. After this time, the reaction mixture was allowed to cool to ambient temperature, where it was stirred for about 24 hours. The reaction mixture was then made acidic with aqueous 2N hydrochloric acid, after which time it was stirred for about 15 minutes. The mixture was made basic with aqueous 10% sodium hydroxide, and then it was extracted with two 150 mL portions of ethyl acetate. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel. Elution was accomplished using 10:1 methylene chloride and methanol. The product-containing fractions were combined and concentrated under reduced pressure, yielding when dried, 0.7 gram of 2,4-diamino-6-ethyl-5-(4-chloro-3-undecylaminophenyl)pyrimidine. The NMR spectrum Was consistent with the proposed structure.

reactant | 2,4-diamino-6-ethyl-5-(4-chloro-3-decylcarbonylaminophenyl)pyrimidine | NC1=NC(=C(C(=N1)N)C1=CC(=C(C=C1)Cl)NC(=O)CCCCCCCCCC)CC | C23H34ClN5O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2,4-diamino-6-ethyl-5-(4-chloro-3-undecylaminophenyl)pyrimidine | NC1=NC(=C(C(=N1)N)C1=CC(=C(C=C1)Cl)NCCCCCCCCCCC)CC | C23H36ClN5
